US07112594B2
5-amino-2-phenoxybenzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 2 using 2-chloro-5-nitrobenzonitrile (10 g) and phenol (5.7 g), the title compound (3 g) was obtained. melting point: 89° C.

reactant | 2-chloro-5-nitrobenzonitrile | 10 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | phenol | 5.7 g | C1(=CC=CC=C1)O | C6H6O
product | 5-amino-2-phenoxybenzonitrile | 3 g | NC=1C=CC(=C(C#N)C1)OC1=CC=CC=C1 | C13H10N2O
